US06613775B1
Synthesis of 8-(2,6-Dimethylbenzylamino)-2,3-dihydroxymethyl-imidazo[1,2-a]pyridine
To an ice cooled solution of diethyl 8-(2,6-dimethylbenzylamino)imidazo[1,2-a]pyridine-2,3-dicarboxylate (2.5 g, 6.3 mmol) in toluene (100 ml) was added Red-Al (14 ml, 45 mmol)(65% in toluene) during 3 h. The temperature was allowed to rise to room temperature and a Rochell salt solution (35 g potassium sodium tartrate in 250 ml H2O) was added. The organic layer was separated dried and evaporated under reduced pressure. Purification of the residue by column chromatography on silica gel using dichloromethane: isopropylalcohol (4:1) gave 0.09 g (5%) of de desired product.

reactant | diethyl 8-(2,6-dimethylbenzylamino)imidazo[1,2-a]pyridine-2,3-dicarboxylate | 6.3 mmol, 2.5 g | CC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C(=O)OCC)C(=O)OCC)C(=CC=C1)C | C22H25N3O4
reactant | Red-Al | 45 mmol, 14 ml | COCCO[AlH2-]OCCOC.[Na+]
reactant | potassium sodium tartrate | 35 g | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | H2O | 250 ml | O | H2O
product | 8-(2,6-Dimethylbenzylamino)-2,3-dihydroxymethyl-imidazo[1,2-a]pyridine | CC1=C(CNC=2C=3N(C=CC2)C(=C(N3)CO)CO)C(=CC=C1)C | C18H21N3O2
